US07566735B2
1-(4-{[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]methyl}phenyl)-2-pyrrolidinone
A solution of 4-{[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]methyl}aniline (166 mg, 0.56 mmol) in dichloromethane (4 ml) was treated with diisopropylethylamine (1.12 mmol, 146 mg) followed by 4-chlorobutyryl chloride (80 mg, 0.56 mmol). After stirring at room temperature for 15 minutes a solid suspension of sodium hydride (60% in mineral oil) (22 mg, 0.55 mmol) was added and stirring continued for 30 minutes. The dichloromethane was removed by blowing with air and dimethylformamide added (3 ml) and stirring continued for 30 minutes. The reaction mix was partitioned between dichloromethane and water (2×5 ml). The organic layer was dried over sodium sulphate and evaporated under reduced pressure to give a yellow oil (190 mg) which was purified by mass directed auto prep to give the title compound as a yellow oil (39 mg, 19%).

reactant | 4-{[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]methyl}aniline | 0.56 mmol, 166 mg | FC(C1=NN(C=2CCCCC12)CC1=CC=C(N)C=C1)(F)F | C15H16F3N3
reactant | diisopropylethylamine | 1.12 mmol, 146 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chlorobutyryl chloride | 0.56 mmol, 80 mg | ClCCCC(=O)Cl | C4H6Cl2O
reactant | sodium hydride | 0.55 mmol, 22 mg | [H-].[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-(4-{[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]methyl}phenyl)-2-pyrrolidinone | 190 mg | FC(C1=NN(C=2CCCCC12)CC1=CC=C(C=C1)N1C(CCC1)=O)(F)F | C19H20F3N3O
